US04886785
To a solution, cooled in ice, of 0.45 g of 5'-amino-2',5'-dideoxy-5-ethyluridine in 28 ml of methanol and 9 ml of water were added 0.17 g of sodium cyanoborohydride followed by 0.5 g of 2-(2,4-dichlorophenoxy)propionaldehyde. The mixture was allowed to warm to room temperature and was then stirred at room temperature for 3 days. The solution was concentrated in order to remove methanol, diluted with 20 ml of water and extracted three times with 15 ml of methylene chloride. The combined extracts were dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using methanol/methylene chloride (1:12) for the elution. There was obtained 0.26 g of 2',5'-dideoxy-5-ethyl-5'-[2(RS)-(2,4-dichlorophenoxy)propylamino]uridine, mp 51°-61° C.

reactant | 5'-amino-2',5'-dideoxy-5-ethyluridine | 0.45 g | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C11H17N3O4
reactant | sodium cyanoborohydride | 0.17 g | C(#N)[BH3-].[Na+]
reactant | 2-(2,4-dichlorophenoxy)propionaldehyde | 0.5 g | ClC1=C(OC(C=O)C)C=CC(=C1)Cl | C9H8Cl2O2
solvent | methanol | 28 ml | CO | CH4O
solvent | water | 9 ml | O | H2O
product | 2',5'-dideoxy-5-ethyl-5'-[2(RS)-(2,4-dichlorophenoxy)propylamino]uridine | 0.26 g | C(C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CNCC(C)OC3=C(C=C(C=C3)Cl)Cl)O2)C1)=O)=O | C20H25Cl2N3O5
